US03971819
A. 4-butylamino-3-nitro-5-sulphamyl-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (8.4 g), n-butylamine (8.7 g), and water (25 ml) was stirred at 90°C for 1.5 hours. After cooling, the pH was adjusted to pH 2, and the precipitated 4-butylamino-3-nitro-5-sulphamyl-benzoic acid was collected by filtration. After several recrystallizations from aqueous methanol the melting point was 192.5°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 8.4 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | n-butylamine | 8.7 g | C(CCC)N | C4H11N
solvent | water | 25 ml | O | H2O
product | 4-butylamino-3-nitro-5-sulphamyl-benzoic acid | C(CCC)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C11H15N3O6S
